US06723332B2
To a solution of 5-methoxy-7-methylimidazo[1,2-a]pyridine (900 mg, 5.6 mmol) in carbon tetrachloride (100 mL), is added N-bromosuccimide (990 mg, 5.6 mmol). It is stirred at room temperature for 2 h. The reaction solution is then filtered through celite and the filtrate concentrated in vacuo. Ethyl acetate (150 mL) and water are added to the residue. The organic layer is separated and extracted with hydrochloric acid (1N, 3×100). The combined aqueous layer is neutralized with ammonium hydroxide at 0° C. and extracted with dichloromethane (3×200 mL). The combined organic layer is dried over sodium sulfate. The solvent is removed to give 3-bromo-5-methoxy-7-methylimidazo[1,2-a]pyridine (1.1 g, 78%) as a white solid, m.p. 105-106° C.

reactant | 5-methoxy-7-methylimidazo[1,2-a]pyridine | 5.6 mmol, 900 mg | COC1=CC(=CC=2N1C=CN2)C | C9H10N2O
reactant | N-bromosuccimide | 5.6 mmol, 990 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | carbon tetrachloride | 100 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-bromo-5-methoxy-7-methylimidazo[1,2-a]pyridine | 1.1 g, 78% | BrC1=CN=C2N1C(=CC(=C2)C)OC | C9H9BrN2O
